US07638515B2
Ethyl-E-4-(3-methoxyphenyl)-4-methylpent-2-enoate
33.6 g (114.3 mmol) of phosphonoacetic acid triethyl ester is introduced into 148 ml of tetrahydrofuran. At 0° C., 79.7 ml of a 2 M solution of LDA in THF/heptane/ethylbenzene is added in drops (1½ hours). After one hour of stirring, 24.3 g (136.34 mmol) of 2-(3-methoxyphenyl)-2-methylpropanal, dissolved in 130 ml of tetrahydrofuran, is added in drops at 0° C. After five days of stirring at room temperature, the reaction mixture is poured into 250 ml of dilute ammonium chloride solution and extracted twice with 400 ml each of diethyl ether. The combined organic extracts are treated as usual, and the residue that is obtained is chromatographed on silica gel (mobile solvent ethyl acetate/hexane). 27.2 g (80.4%) of the desired compound is isolated.

reactant | phosphonoacetic acid triethyl ester | 114.3 mmol, 33.6 g | CCOC(=O)CP(=O)(OCC)OCC | C8H17O5P
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | 2-(3-methoxyphenyl)-2-methylpropanal | 136.34 mmol, 24.3 g | COC=1C=C(C=CC1)C(C=O)(C)C | C11H14O2
reactant | ammonium chloride | 250 ml | [Cl-].[NH4+]
solvent | THF heptane ethylbenzene | C1CCOC1.CCCCCCC.C(C)C1=CC=CC=C1
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 148 ml | O1CCCC1 | C4H8O
product | Ethyl-E-4-(3-methoxyphenyl)-4-methylpent-2-enoate | 27.2 g, 80.4% | C(C)OC(\C=C\C(C)(C)C1=CC(=CC=C1)OC)=O | C15H20O3
